US09029545B2
2-Bromo-3,6-dimethylthieno[2,3-b]pyridin-4-amine
A mixture of 4-amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylic acid (Description 61) (720 mg, 2.391 mmol) and diphenyl ether (3.80 mL, 23.91 mmol) was heated to 200° C. for 48 h. The mixture was then cooled to RT, taken-up in MeOH (10 mL) and purified on silica, eluting with a gradient of 0-20% 2M NH3 in MeOH in DCM. Further purification by SCX, eluting with 0-100% 2M NH3 in MeOH in MeOH afforded the title compound (350 mg). LCMS (A) m/z: 257/259 [M+1]+, Rt 1.10 min (basic).

reactant | 4-amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylic acid | 2.391 mmol, 720 mg | NC1=C2C(=NC(=C1C(=O)O)C)SC(=C2C)Br | C10H9BrN2O2S
reactant | diphenyl ether | 23.91 mmol, 3.80 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | MeOH | 10 mL | CO | CH4O
product | 2-Bromo-3,6-dimethylthieno[2,3-b]pyridin-4-amine | 350 mg | BrC1=C(C2=C(N=C(C=C2N)C)S1)C | C9H9BrN2S
